### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Basis/Fin): linear independence of `Fin.snoc`

### PR DESCRIPTION
**Pull request by khwilson**
In #37740 we renamed several `LinearIndependent` lemmas from names such as `fin_cons` to camelCase, e.g., `finCons`. Missing from this collection of lemmas was `finSnoc` and some related lemmas that are useful for certain inductions.

This PR adds these extra lemmas and constructions to mathlib.

---

- [x] depends on: #37740

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by khwilson** [comment]
@YaelDillies wanted to follow up and see if you wanted to review this. It's the follow on from the rename at #37740

File: Mathlib/LinearAlgebra/Basis/Fin.lean [hunk 1]
```diff
@@ -6,6 +6,7 @@ Authors: Johannes Hölzl, Mario Carneiro, Alexander Bentkamp
 module
 
 public import Mathlib.LinearAlgebra.Basis.Basic
+public import Mathlib.LinearAlgebra.LinearIndependent.Lemmas
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Basis/Fin.lean]: Can this be private?

File: Mathlib/LinearAlgebra/Basis/Fin.lean [hunk 2]
```diff
@@ -81,6 +82,49 @@ theorem coe_mkFinConsOfLE {n : ℕ} {N O : Submodule R M} (y : M) (yO : y ∈ O)
...
+    rw [Set.range_comp, Submodule.span_image, b.span_eq, Submodule.map_subtype_top]
+  Basis.mk (v := Fin.snoc (N.subtype ∘ b) y)
+    ((b.linearIndependent.map' N.subtype (Submodule.ker_subtype _)).finSnoc' _ _
+      (by
+        intro c x hx hc
+        rw [span_b] at hx
+        exact hli c x hx hc))
+    fun x _ => by
+      rw [Fin.range_snoc, Submodule.mem_span_insert', span_b]
+      exact hsp x
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Basis/Fin.lean]: Does something like this work?
```suggestion
    fun x _ => by simpa using hsp x
```

File: Mathlib/LinearAlgebra/Basis/Fin.lean [hunk 3]
```diff
@@ -81,6 +82,49 @@ theorem coe_mkFinConsOfLE {n : ℕ} {N O : Submodule R M} (y : M) (yO : y ∈ O)
...
+
+@[simp]
+theorem coe_mkFinSnoc {n : ℕ} {N : Submodule R M} (b : Basis (Fin n) R N) (y : M)
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Basis/Fin.lean:99]: Just flagging again that this should be generated by `simps!`. I am off the grid for 10 days, but maybe someone else can investigate

Comment (khwilson) [reply Mathlib/LinearAlgebra/Basis/Fin.lean:99]: Oh have fun! Opened up a thread here: [#PR reviews > #37810 Generating simps correctly](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2337810.20Generating.20simps.20correctly/with/585720576)

File: Mathlib/LinearAlgebra/Basis/Fin.lean (hunk 1 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/Basis/Fin.lean]: Sure!

File: Mathlib/LinearAlgebra/Basis/Fin.lean (hunk 2 above)
Comment (khwilson) [reply Mathlib/LinearAlgebra/Basis/Fin.lean]: Got a variant to work

File: Mathlib/LinearAlgebra/Basis/Fin.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Basis/Fin.lean:99]: Let's leave this for now

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
